*** Bandgap ***

.lib "$PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

*** source ***

Id 0 vbe 50u
XBp2 0 0 vbe sky130_fd_pr__pnp_05v5_W3p40L3p40

.control
    echo -n > vbe.txt
    dc temp -40 125 5
    print vbe >> vbe.txt
    quit 
.endc
